US07618975B2
(2-Methyl-quinazolin-4-yl)-(2,4,6-trimethoxy-phenyl)-methyl-amine
The title compound was prepared from (2-methyl-quinazolin-4-yl)-(2,4,6-trimethoxy-phenyl)-amine (56 mg, 0.17 mmol) and methyl iodide (0.1 ml, 1.6 mmol) by a procedure similar to example 36. 1H NMR (CDCl3): 7.70 (d, J=8.4 Hz, 1H), 7.49 (t, J=7.8 Hz, 1H), 7.09 (d, J=8.7 Hz, 1H), 6.93 (t, J=8.1 Hz, 1H), 6.18 (s, 2H), 3.86 (s, 3H), 3.63 (s, 6H), 3.44 (s, 3H), 2.70 (s, 3H).

reactant | (2-methyl-quinazolin-4-yl)-(2,4,6-trimethoxy-phenyl)-amine | 0.17 mmol, 56 mg | CC1=NC2=CC=CC=C2C(=N1)NC1=C(C=C(C=C1OC)OC)OC | C18H19N3O3
reactant | methyl iodide | 1.6 mmol, 0.1 ml | CI | CH3I
product | (2-Methyl-quinazolin-4-yl)-(2,4,6-trimethoxy-phenyl)-methyl-amine | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=C(C=C(C=C1OC)OC)OC | C19H21N3O3
